US07432258B2
A solution of 7-(methyloxy)-6-(trifluoromethyl)-2H-1,4-benzoxazin-3(4H)-one (0.39 g, 1.6 mmol) dissolved in 1 mL of anhydrous tetrahydrofuran was added drop-wise to a mixture of sodium hydride (60% by weight in mineral oil, 0.068 g, 1.7 mmol) suspended in 2 mL of anhydrous tetrahydrofuran under argon. The mixture was allowed to stir at room temperature for 10 minutes and then ethyl bromoacetate (0.21 mL, 1.9 mmol) was added to the mixture and stirred vigorously for 18 hours before it was determined to be complete by LCMS (two Aquasil C18, 20×1 mm columns were run in sequence, 4 minutes at 0.1 mL/min, 1-99% CH3CN/H2O with 0.018% trifluoroacetic acid, ES) Rt=2.0 min and m/e 334 [M+1]+. The reaction was quenched by adding 5 mL of a 4 M solution of hydrochloric acid in dioxane. After allowing the mixture to stir for one hour, all of the volatiles were removed by rotary evaporation, and the crude residue was purified by silica gel chromatography (40 g Redisep column, silica, 40 um, 60 Å, 35 mL/min, A: methylene chloride, B: methanol, B: 0% to 10% over 30 min; detection at 214 nm) to give ethyl [7-(methyloxy)-3-oxo-6-(trifluoromethyl)-2,3-dihydro-4H-1,4-benzoxazin-4-yl]acetate (0.36 g, 1.1 mmol, 69%) of an off-white amorphous solid. MS (ES) m/e 334 [M+1]+.

reactant | 7-(methyloxy)-6-(trifluoromethyl)-2H-1,4-benzoxazin-3(4H)-one | 1.6 mmol, 0.39 g | COC1=CC2=C(NC(CO2)=O)C=C1C(F)(F)F | C10H8F3NO3
reactant | sodium hydride | 1.7 mmol, 0.068 g | [H-].[Na+]
reactant | ethyl bromoacetate | 1.9 mmol, 0.21 mL | BrCC(=O)OCC | C4H7BrO2
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
solvent | CH3CN H2O | CC#N.O
product | ethyl [7-(methyloxy)-3-oxo-6-(trifluoromethyl)-2,3-dihydro-4H-1,4-benzoxazin-4-yl]acetate | 1.1 mmol, 0.36 g, 69% | COC1=CC2=C(N(C(CO2)=O)CC(=O)OCC)C=C1C(F)(F)F | C14H14F3NO5
